US05073556
3.0 g (0.0074 moles) of ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-5-nitro-1,4-dihydro-4-oxoquinoline-3-carboxylate [(XX), R1 =--OCHF2, R3' =NO2, R17 =C2H5, X=F] [prepared as described in step (e) above] were dissolved in 800 ml of acetic acid by heating. 0.75 g of 5% w/w palladium-on-carbon was then added to the solution, and the mixture was stirred at 70°-80° C. for 3 hours under a current of hydrogen. At the end of this time, the reaction mixture was filtered, and the filtrate was concentrated by evaporation under reduced pressure. The residue was washed with diethyl ether to give 1.78 g of ethyl 5-amino-1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate as a colorless powder, melting at 295°-296° C.

reactant | ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-5-nitro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.0074 moles, 3.0 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)OC(F)F)F)F)[N+](=O)[O-])=O)C(=O)OCC | C16H12F4N2O6
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | ethyl 5-amino-1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.78 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC(F)F)C1CC1)C(=O)OCC)=O | C16H14F4N2O4
